US05807887
A mixture of 0.61 g of 2-(2-chloroethoxy)-1-(6-fluorobenzo[b]thiophen-5-yl)ethanol 3 ml of 50% aqueous diethylamine solution, 0.45 mg of potassium iodide and 20 ml of ethanol is refluxed for three hours. Subsequently, 3 ml of 50% aqueous diethylamine solution is added to the thus refluxed reaction mixture, and the resulting reaction mixture is further refluxed for three hours. The solvent is removed from the thus refluxed mixture by distillation under reduced pressure. To the residue obtained are added 30 ml of ethyl acetate and 30 ml of water, after which the resulting mixture is adjusted to pH 1.5 with 6N hydrochloric acid. Thereafter, the aqueous layer is separated and washed with 10 ml of ethyl acetate. 30 Milliliters of ethyl acetate is then added to the thus washed layer, after which the resulting mixture is adjusted to pH 10.5 with potassium carbonate. The organic layer is separated again, washed successively with 10 ml of water and 10 ml of a saturated saline solution, and then dried over anhydrous magnesium sulfate. The solvent is then removed from the thus dried layer by distillation under reduced pressure. The residue obtained is dissolved in 6 ml of ethanol. To the resulting solution are added 0.6 ml of 5N dried hydrochloric acid-ethanol solution and 6 ml of diethyl ether. The mixture thus obtained is stirred at room temperature for one hour. The crystals precipitated are collected by filtration and washed with 2 ml of a liquid mixture of diethyl ether and ethanol (1:1) and then dried, to obtain 0.28 g of 2-[2-(N,N-diethylamino)ethoxy]-1-(6-fluorobenzo[b]thiophen-5-yl)ethanol hydrochloride.

reactant | 2-(2-chloroethoxy)-1-(6-fluorobenzo[b]thiophen-5-yl)ethanol | 3 ml, 0.61 g | ClCCOCC(O)C1=CC2=C(SC=C2)C=C1F | C12H12ClFO2S
reactant | diethylamine | C(C)NCC | C4H11N
reactant | potassium iodide | 0.45 mg | [I-].[K+]
reactant | diethylamine | 3 ml | C(C)NCC | C4H11N
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | hydrochloric acid ethanol | 5N, 0.6 ml | Cl.C(C)O
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-(N,N-diethylamino)ethoxy]-1-(6-fluorobenzo[b]thiophen-5-yl)ethanol hydrochloride | 0.28 g | Cl.C(C)N(CC)CCOCC(O)C1=CC2=C(SC=C2)C=C1F | InChI=1S/C16H22FNO2S.ClH/c1-3-18(4-2)6-7-20-11-15(19)13-9-12-5-8-21-16(12)10-14(13)17;/h5,8-10,15,19H,3-4,6-7,11H2,1-2H3;1H
